US04906628
Sodium hydride (50% oil dispersion, 3.5 g) was added with caution to a cooled solution of diethyl malonate (11.85 ml) in dimethylformamide (10 ml). The reaction mixture was stirred at room temperature for 30 minutes before a solution of 2-chloro-1-(4-fluorophenyl)-1-propanone (12.13 g) in dimethylformamide (50 ml) was added in small aliquots. The resulting reaction mixture was stirred for 2 hours at room temperature and then water (35 ml) was added. The mixture was extracted with petroleum ether (b.p. 40°-60° C.) (3×50 ml) and the combined organic extracts were evaporated under reduced pressure to afford ethyl 2-ethoxycarbonyl-3-(4-fluorobenzoyl)butanoate (15.92 g).

reactant | Sodium hydride | 3.5 g | [H-].[Na+]
reactant | diethyl malonate | 11.85 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-chloro-1-(4-fluorophenyl)-1-propanone | 12.13 g | ClC(C(=O)C1=CC=C(C=C1)F)C | C9H8ClFO
reactant | water | 35 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 2-ethoxycarbonyl-3-(4-fluorobenzoyl)butanoate | 15.92 g | C(C)OC(=O)C(C(=O)OCC)C(C)C(C1=CC=C(C=C1)F)=O | C16H19FO5
